US08012979B2
i) [1,4]Diazepan-5-yl-methanol
To a solution of (1,4-dibenzyl-1,4-diazepan-5-yl)methanol (500 mg) (prepared as described in Chin. Chem. Lett., 2001, 12, 951) in methanol (10 mL) was added 5% wt. palladium on charcoal (171 mg) and the mixture stirred under a 5 bar hydrogen atmosphere for 16 hours. The reaction mixture was filtered through celite and the liquors concentrated to dryness to give the sub-title compound (210 mg) as a colourless oil.

reactant | (1,4-dibenzyl-1,4-diazepan-5-yl)methanol | 500 mg | C(C1=CC=CC=C1)N1CCN(C(CC1)CO)CC1=CC=CC=C1 | C20H26N2O
reactant | hydrogen | [H][H] | H2
solvent | methanol | 10 mL | CO | CH4O
catalyst | palladium on charcoal | 171 mg | [Pd] | Pd
product | [1,4]Diazepan-5-yl-methanol | 210 mg | N1CCNC(CC1)CO | C6H14N2O
